US07456296B2
The Perindopril benzyl ester (20 g, 0.0436 moles) was dissolved in cyclohexane (80 ml) in a round bottom flask and the resulting solution was transferred into a hydrogenation bottle. To this was added 10% Palladium on carbon (10% loading), followed by water (70 ml). The reaction mixture was hydrogenated at 27° C. for 3 hrs, under 60 psi pressure when the reaction was complete. The reaction mixture was filtered off and the residue was washed with cyclohexane (20 ml). The filtrate was allowed to settle for 15 min. The aqueous phase was separated. It was washed with cyclohexane (20 ml, twice). Perindopril was isolated in an amount of 11.5 g (71.5%) from the aqueous layer by freeze drying.

reactant | Perindopril benzyl ester | 0.0436 moles, 20 g | CCC[C@@H](C(=O)OCC)N[C@@H](C)C(=O)N1[C@H]2CCCC[C@H]2C[C@@H]1C(=O)OCC3=CC=CC=C3 | C26H38N2O5
reactant | water | 70 ml | O | H2O
solvent | cyclohexane | 80 ml | C1CCCCC1 | C6H12
catalyst | Palladium on carbon | [Pd] | Pd
product | Perindopril | CCC[C@@H](C(=O)OCC)N[C@@H](C)C(=O)N1[C@H]2CCCC[C@H]2C[C@H]1C(=O)O | C19H32N2O5
